US05618941
3- [2-[(4-Chlorophenyl)sulphonylamino]ethyl]-5-(4-methoxybenzoyl) benzenepropanoic acid
A mixture of 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl]-5-(4-fluorobenzoyl)benzenepropanoic acid (0.25 g) and potassium carbonate (0.212 g) in anhydrous methanol (5.0 ml) was heated under reflux for 18 hours. Additional potassium carbonate (0.212 g) was added and the mixture was heated under reflux for a further 20 hours and then cooled. Water (15 ml) was added and the solution was evaporated to about 10 ml and then acidified with 2N hydrochloric acid. The mixture was extracted several times with ethyl acetate and the combined extracts were washed with water and dried (MgSO4). Evaporation of the solvent gave the title compound as a glass (0.22 g). Found: C,60.25; H,4.92; N,2.51. C25H24ClNO6S requires C,59.81; H,4.82; N,2.79%.

reactant | 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl]-5-(4-fluorobenzoyl)benzenepropanoic acid | 0.25 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(C=C(C1)C(C1=CC=C(C=C1)F)=O)CCC(=O)O | C24H21ClFNO5S
reactant | potassium carbonate | 0.212 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.212 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 15 ml | O | H2O
solvent | methanol | 5.0 ml | CO | CH4O
product | 3- [2-[(4-Chlorophenyl)sulphonylamino]ethyl]-5-(4-methoxybenzoyl) benzenepropanoic acid | 0.22 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(C=C(C1)C(C1=CC=C(C=C1)OC)=O)CCC(=O)O | C25H24ClNO6S
